US07371743B2
(b) 4-(2-carboxymethoxy-ethylamino)-3-fluoro-benzoic acid
580 mg (1.91 mmol) ethyl 4-[(2-chloro-ethoxy)-acetyl-amino]-3-fluoro-benzoate in 6 ml dioxane are combined with 3.82 ml (7.64 mmol) 2-molar potassium hydroxide solution and 2 ml of water. Then the mixture is heated to 70° C. for 2 h, then diluted with water and acidified with 6-molar hydrochloric acid. After the addition of dichloromethane the precipitate formed is suction filtered and dried in the drying cupboard at 50° C.

reactant | ethyl 4-[(2-chloro-ethoxy)-acetyl-amino]-3-fluoro-benzoate | 1.91 mmol, 580 mg | ClCCON(C1=C(C=C(C(=O)OCC)C=C1)F)C(C)=O | C13H15ClFNO4
reactant | potassium hydroxide | 7.64 mmol, 2-molar, 3.82 ml | [OH-].[K+]
reactant | hydrochloric acid | 6-molar | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 4-(2-carboxymethoxy-ethylamino)-3-fluoro-benzoic acid | C(=O)(O)COCCNC1=C(C=C(C(=O)O)C=C1)F | C11H12FNO5
